US05753679
0.202 g (0.002 mol) of 4-hydroxypiperidine, 1.22 ml (0.0088 mol) of triethylamine and 0.43 g (0.0021 mol) of 2-chlorobenzyl bromide were dissolved in 5 ml of dimethylform-amide and stirred at room temperature for 2 hrs. The solvent was distilled off and the residue was taken up in dichloromethane and washed with saturated bicarbonate solution and sodium chloride solution. The organic phase was dried over sodium sulfate and concentrated. 0.28 g (62%) 1-(2-chloro-benzyl)-piperidin-4-ol was obtained as a colorless oil.

reactant | 4-hydroxypiperidine | 0.002 mol, 0.202 g | OC1CCNCC1 | C5H11NO
reactant | triethylamine | 0.0088 mol, 1.22 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzyl bromide | 0.0021 mol, 0.43 g | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
solvent | dimethylform-amide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(2-chloro-benzyl)-piperidin-4-ol | 0.28 g, 62% | ClC1=C(CN2CCC(CC2)O)C=CC=C1 | C12H16ClNO
